US04497817
In a solution of 2.5 g of potassium hydroxide in 90% methanol was suspended 2 g of 2-(p-acetoxyphenyl)imidazo-[2,1-b]benzothiazole and the suspension was stirred for one hour at 40°-50° C., thereby the additive was completely dissolved. Then, 3 ml of acetic acid was gradually added dropwise to the reaction mixture with stirring, thereby crystals precipitated. The crystals were recovered by filtration, washed with water and then methanol, and dried to provide 1.5 g of 2-(p-hydroxyphenyl)imidazo[2,1-b]benzothiazole.

reactant | potassium hydroxide | 2.5 g | [OH-].[K+]
reactant | 2-(p-acetoxyphenyl)imidazo-[2,1-b]benzothiazole | 2 g | C(C)(=O)OC1=CC=C(C=C1)C=1N=C2SC3=C(N2C1)C=CC=C3 | C17H12N2O2S
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 2-(p-hydroxyphenyl)imidazo[2,1-b]benzothiazole | 1.5 g | OC1=CC=C(C=C1)C=1N=C2SC3=C(N2C1)C=CC=C3 | C15H10N2OS
